US04211783
Preparation of ethyl 4-[6-(4-chlorophenyl)hexa-5-enylamino]phenylacetate
To a solution of 10.0 g. ethyl 4-[6-(4-chlorophenyl)hexa-5-ynylamino]phenylacetate in 75 ml. acetone is added 1.0 ml. quinoline and 0.2 g. of palladium-on-calcium carbonate. The solution is hydrogenated at slightly above atmospheric pressure until 600 ml. hydrogen has been absorbed. The catalyst is filtered and washed with several small portions of acetone. The organic solution is diluted with 200 ml. water, the precipitate is collected, dried, and recrystallized from acetonitrile to yield the title compound as white crystals.

reactant | ethyl 4-[6-(4-chlorophenyl)hexa-5-ynylamino]phenylacetate | ClC1=CC=C(C=C1)C#CCCCCNC1=CC=C(C=C1)CC(=O)OCC | C22H24ClNO2
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 4-[6-(4-chlorophenyl)hexa-5-enylamino]phenylacetate | ClC1=CC=C(C=C1)C=CCCCCNC1=CC=C(C=C1)CC(=O)OCC | C22H26ClNO2
